US06617336B1
4.75 g of (19 mmol) of 2-phenyl-3-methyl-8-methoxyquinoline and 111 ml of 48% hydrobromic acid are placed in a 1 l round-bottomed flask. The mixture is brought to reflux for 18 h and cooled to ambient temperature. Sodium bicarbonate is added to basify the solution and extraction is carried out with ethyl ether. The organic phases are combined, dried over magnesium sulfate, filtered and evaporated under vacuum to provide 4.3 g of 2-phenyl-3-methyl-8-hydroxyquinoline in the form of an oil. (Yield: 77%)

reactant | 2-phenyl-3-methyl-8-methoxyquinoline | 19 mmol, 4.75 g | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1C)OC | C17H15NO
reactant | hydrobromic acid | 111 ml | Br | BrH
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-phenyl-3-methyl-8-hydroxyquinoline | 4.3 g, Yield: 77% | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1C)O | C16H13NO
